US05399590
STAGE A: Preparation of N,N-dimethylamino-2-(tetrahydro-2-pyranyloxy) ethanol
10.0 mg of paratoluenesulphonic acid, 8.7 ml of dihydropyran, then 7.12 g of N,N-dimethylethanol-amine are mixed together at 20° C. The temperature is taken to 60° C., and after agitation for 2 hours the mixture is returned to 20° C. 0.5 g of sodium bicarbonate is then added. Agitation is continued for one hour. The tetrahydropyranyloxylated derivative is obtained which is immediately reacted.

reactant | paratoluenesulphonic acid | 10.0 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dihydropyran | 8.7 ml | O1CCCC=C1 | C5H8O
reactant | N,N-dimethylethanol-amine | 7.12 g | CN(CCO)C | C4H11NO
reactant | sodium bicarbonate | 0.5 g | C([O-])(O)=O.[Na+]
product | N,N-dimethylamino-2-(tetrahydro-2-pyranyloxy) ethanol | CN(C)C(COC1OCCCC1)O | C9H19NO3
